Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atenolol / citalopram
 
Attending: ___.
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
TEE with cardioversion

 
History of Present Illness:
___ with history of CAD s/p PCI ___ CKD, HTN, HL, DM2, h/o of 
recurrent DVTs on warfarin last echo with EF of 25%, recent 
admission for CHF exacerbation, referred in from clinic for 
diuresis in setting of worsening fatigue for several weeks since 
her last admission.  
Patient was last discharged on ___ with weight 154.2 kg, 
with 60 mg furosemide daily, to be followed up by outpt 
cardiologist.  
He saw outpt cardiologist on ___ and was started on digoxin 
given findings on ECHO during ___ admission, and fact patient 
was hypotesnive (sys 80-100's) with high HR (100-110's).  
Physical exam in ED revealed mild JVD, lower extremities with 2+ 
edema, left greater than right stable per patient, bibasilar 
crackles, abdomen protuberant but nontender. His weight is 151.5 
kg  
In ED patient had BNP drawn (4000's), discussed with ___ 
cardiologist who agreed with admission for diuresis. CXR clear  
In the ED initial vitals were: 97.0 92 71/43 18 95%  
EKG:  
Labs/studies notable for: H/H 12.2/38.6, BNP 3438, BUN/Crt 
50/2.0, trop 0.02, lactate 1.6. Chest Xray did not show any 
infection or pulmonary edema.  
Patient was given: Aspirin 243mg, 250cc IVF  
Vitals on transfer: 85 98/51 15 100% RA  
On the floor patient reports he hasn't really had new symptoms 
other than slight fatigue and B/L leg swelling. He reports he 
feels he wasn't "dry" at last discharge. Reports being adherent 
with medications at home, but does say he may have had too much 
salt in diet. Denies any recent chills/fevers or possible 
infections. ROS otherwise negative. Says that on 32 units of 
glargine at home his sugars had been very well controlled and 
was thinking about decreasing dose.  
ROS: All of the other review of systems were negative. Cardiac 
review of systems is notable for absence of chest pain, baseline 
dyspnea on exertion, baseline paroxysmal nocturnal dyspnea (1 
pillow), orthopnea, worsening ankle edema, no palpitations, 
syncope or presyncope. 
 
Past Medical History:
-stage III chronic kidney disease (likely to DM nephropathy) 
(baseline CREAT 1.64 ___  
-gout  
-CAD (s/p MI ___ s/p stent at ___. Last cardiac cath 
___:  
1. No angiographically significant coronary artery disease. 2.  
Low systemic arterial blood pressure)  
-HTN  
-HLD  
-DM2, (HbA1C 7.8 ___  
-DVT ___, per pt  
-GERD  
-pancreatitis (___)  
-morbid obesity  
-nephrolithiasis (R. kidney), hematuria  
-sleep apnea  
-chronic knee pain  
-tremor  
-h/o syncope  
 
Social History:
___
Family History:
Mother cholangiocarcinoma at age ___
 
Physical Exam:
Admission exam:
BP 103/67 HR 94 wt 151.5 kg RR 18 97 % RA  
Weight on admission: 151.5
GENERAL: Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 12-15 cm.  
CARDIAC: RRR, S1 and S2, S4 appreciable over mitral area  
REsp: CTAB over anterior chest, mild bibasilar crackles on back  

EXTREMITIES: Significant B/L edema, left worse than right, 
pitting. Chronic venosus stasis chanegs on left over right  
PULSES: 2+ radial B/L, difficult to assess DP pulses B/L ___ 
edema.  
LABS: reviewed, see below  
notable for trop 0.02, BUN/Cr 50/2.0 (baseline), BNP 3438 (4333 
on ___)  
EKG: 97 BPM, normal axis, afib, no ST changes  

Discharge Exam:
Vitals: 98.4 70  100/60 20 98%RA
Discharge weight: 152.1
General: Obese male in no acute distress, lying comfortably in 
bed
HEENT: NCAT, MMM, 4-6 cm JVD at 60 degrees
NEURO: AAOx3, EOMI, moving all extremities
Lungs: CTAB without increased WOB
CV: Irregular rate without MRG, normal S1 and S2
Abdomen: NTND, BS+, soft
Ext: WWP, 2+ LLE edema with venous stasis changes, 1+ RLE edema
 
Pertinent Results:
Admission labs:
___ 04:50PM BLOOD WBC-7.9 RBC-4.23* Hgb-12.2* Hct-38.6* 
MCV-91 MCH-28.8 MCHC-31.6* RDW-17.8* RDWSD-57.6* Plt ___
___ 04:50PM BLOOD Neuts-75.9* Lymphs-14.1* Monos-6.9 
Eos-1.7 Baso-0.5 Im ___ AbsNeut-5.98 AbsLymp-1.11* 
AbsMono-0.54 AbsEos-0.13 AbsBaso-0.04
___ 04:50PM BLOOD ___ PTT-36.8* ___
___ 04:50PM BLOOD Glucose-182* UreaN-50* Creat-2.0* Na-138 
K-4.6 Cl-102 HCO3-24 AnGap-17
___ 12:45AM BLOOD ALT-39 AST-30 LD(LDH)-167 AlkPhos-142* 
TotBili-0.4
___ 04:50PM BLOOD proBNP-3438*
___ 04:50PM BLOOD cTropnT-0.02*
___ 05:00AM BLOOD Albumin-3.6 Calcium-9.0 Phos-4.1 Mg-2.4
___ 12:45AM BLOOD Digoxin-0.6*
___ 05:05PM BLOOD Lactate-1.6

Imaging:
___ CXR
IMPRESSION: 
Mild bibasilar atelectasis.  No evidence of pulmonary edema.

___ TTE
The left atrium is markedly dilated. The right atrium is 
moderately dilated. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity is severely dilated. 
Overall left ventricular systolic function is severely depressed 
(LVEF= ___ %) with akinesis of the basal to mid inferior and 
inferolateral walls and global hypokinesis of the remaining 
segments. [Intrinsic left ventricular systolic function is 
likely more depressed given the severity of valvular 
regurgitation.] The right ventricular cavity size and systolic 
function are normal. The estimated cardiac index is normal 
(>=2.5L/min/m2). The ascending aorta is mildly dilated. The 
aortic valve leaflets are mildly thickened (?#). There is no 
valvular aortic stenosis. The increased transaortic velocity is 
likely related to increased stroke volume due to aortic 
regurgitation. Moderate (2+) aortic regurgitation is seen. 
Moderate to severe (3+) mitral regurgitation is seen. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
the severity of mitral regurgitation has increased. The other 
findings are similar.  

___ TEE
The left atrium is elongated. No spontaneous echo contrast or 
thrombus is seen in the body of the left atrium or left atrial 
appendage. The right atrium is dilated. Right atrial appendage 
ejection velocity is good (>20 cm/s). No atrial septal defect is 
seen by 2D or color Doppler. The left ventricle is not well 
seen. There are simple atheroma in the descending thoracic 
aorta. The aortic valve leaflets (3) are mildly thickened. Mild 
to moderate (___) central aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Moderate (2+) central mitral regurgitation is 
seen. There is no pericardial effusion. 

IMPRESSION: No ___ SEC or thrombus. Moderate mitral 
regurgitation. Mild-moderate aortic regurgitation.

Discharge labs:
___ 07:50AM BLOOD WBC-6.3 RBC-4.09* Hgb-11.4* Hct-37.9* 
MCV-93 MCH-27.9 MCHC-30.1* RDW-17.7* RDWSD-58.5* Plt ___
___ 07:50AM BLOOD ___ PTT-41.9* ___
___ 07:50AM BLOOD Glucose-114* UreaN-55* Creat-2.3* Na-138 
K-4.7 Cl-104 HCO3-18* AnGap-21*
___ 05:00AM BLOOD ALT-34 AST-28 LD(LDH)-159 AlkPhos-131* 
TotBili-0.5
___ 07:50AM BLOOD Calcium-9.0 Phos-4.3 Mg-2.2
 
Brief Hospital Course:
Summary
======================
___ with history of CAD s/p PCI ___ CKD, HTN, HL, DM2, h/o of 
recurrent DVTs on warfarin and sCHF w/EF of 25%, recent 
admission for CHF exacerbation, referred in from clinic for 
diuresis in setting of worsening fatigue for several weeks since 
last admission. There was no clear precipitating cause, however 
the patient was in afib continuously and it was felt this was a 
contributing factor. He was initially treated with lasix gtt 
diuresis, however developed ___ with Cr up to 2.3 from approx. 2 
at baseline. He underwent TEE with cardioversion ___. He did 
well post procedure and remained in NSR. He was started on 
amiodarone for rhythm control following cardioversion. He was 
set up with home ___ services and discharged in good condition. 

Transitional Issues
========================
1. Patient has cardiology appointment with ___ on 
___. He has PCP appointment with ___ on ___. His home 
glipizide and lisinopril were held due to ___. He should have 
his Cr checked at this appointment and glipizide and lisinopril 
may be restarted at that time.
2. He was started on amiodarone 400mg BID for 2 weeks, 200mg BID 
for 2 weeks and 200mg daily following that. 
3. His metoprolol was decreased to 50mg daily. His simvastatin 
decreased to 20mg daily. His digoxin was stopped due to ___ and 
ineffectiveness. 
4. His lasix was decreased to 40mg daily. He was instructed to 
weight himself daily and call doctor for >3 pounds change.
5. He was set up with home ___ services for medication 
management, home weight monitoring and social assistance. 
6. He was instructed to hold his warfarin on the day of 
discharge for INR 3.5. His ___ clinic was contacted and it 
was discussed that coumadin dose may need to be decreased due to 
starting amiodarone. INR will be rechecked by home ___ services 
or he will go in to ___ clinic on ___ if they are 
unable. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Amitriptyline 25 mg PO QHS 
3. Aspirin 81 mg PO DAILY 
4. Gabapentin 300 mg PO TID 
5. Lisinopril 5 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Simvastatin 40 mg PO QPM 
8. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
9. Furosemide 40 mg PO QAM 
10. Furosemide 20 mg PO QPM 
11. Metoprolol Succinate XL 100 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Quinine Sulfate 324 mg PO QHS 
14. Vitamin D 400 UNIT PO DAILY 
15. GlipiZIDE 10 mg PO BID 
16. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q6H:PRN pain 
17. Glargine 32 Units Bedtime
18. Digoxin 0.125 mg PO DAILY 
19. Warfarin 1.5 mg PO 3X/WEEK (___) 
20. Warfarin 2 mg PO 4X/WEEK (___) 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Amitriptyline 25 mg PO QHS 
3. Aspirin 81 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1
5. Gabapentin 300 mg PO TID 
6. Glargine 32 Units Bedtime
7. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1
8. Multivitamins 1 TAB PO DAILY 
9. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q6H:PRN pain 
10. Pantoprazole 40 mg PO Q24H 
11. Quinine Sulfate 324 mg PO QHS 
12. Simvastatin 40 mg PO QPM 
13. Vitamin D 400 UNIT PO DAILY 
14. Warfarin 1.5 mg PO 3X/WEEK (___) 
15. Warfarin 2 mg PO 4X/WEEK (___) 
16. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
17. Amiodarone 400 mg PO BID Duration: 2 Weeks 
RX *amiodarone 400 mg 1 tablet(s) by mouth twice daily Disp #*26 
Tablet Refills:*0
18. Amiodarone 200 mg PO DAILY 
RX *amiodarone 200 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
19. Amiodarone 200 mg PO BID 
RX *amiodarone 200 mg 1 tablet(s) by mouth twice daily Disp #*28 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Atrial fibrillation
systolic acute on chronic CHF exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted due to worsening fatigue. After some testing, 
it was determined that this was due to worsening of your atrial 
fibrillation. For that reason, we treated you with a 
cardioversion to get you back into a normal sinus rhythm. We 
also started a medication called amiodarone to help keep you in 
a normal rhythm. It will be important to follow up with your 
cardiologist for management of this medication. We also 
decreased your metoprolol to 50mg, stopped your digoxin, and 
decreased your simvastatin to 20mg. We decreased your lasix to 
40mg per day. Please stop taking your glipizide and lisinopril 
until you see your primary care doctor to ensure you kidney 
function is ok. It was a pleasure taking care of you.

Best of luck,
Your ___ medical team
 
Followup Instructions:
___